US04014883
Preparation of 3-azido-1-methyl-4-phenylcarbostyril
To a stirred suspension of 10.0 g of 3-azido-4-phenylcarbostyril in 125 ml. of dry dimethylformamide was added 2.2 g. of a 57 percent dispersion of sodium hydride in oil. After stirring at room temperature for about 45 minutes, the mixture was filtered to remove a small amount of insoluble material. To the clear solution was added 5 ml. of methyl iodide. The solution soon turned from an orange color to light yellow, accompanied by the formation of a precipitate. After 1 hour, the mixture was diluted with water and 10 g. (95 percent) of 3-azido-1-methyl-4-phenylcarbostyril, mp indefinite in the range of 140°-150° with decomposition, was collected. This material was pure by tlc. After recrystallizations from dimethylformamide-methanol, yellow needles were obtained, having a melting point of 140°-150° dec.

reactant | 3-azido-4-phenylcarbostyril | 10.0 g | N(=[N+]=[N-])C=1C(NC2=CC=CC=C2C1C1=CC=CC=C1)=O | C15H10N4O
reactant | sodium hydride | [H-].[Na+]
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | 3-azido-1-methyl-4-phenylcarbostyril | N(=[N+]=[N-])C=1C(N(C2=CC=CC=C2C1C1=CC=CC=C1)C)=O | C16H12N4O
